US06166041
Preparation of 4-chloro-2-[2-(pyridin-2-yl)vinyl]benzyloxybenzene
124.4 g (417.8 mmol) of 2-Bromo-4-chlorobenzyloxybenzene, 54.8 ml (501.4 mmol) of 2-vinylpyridine, 4.69 g (20.9 mmol) palladium acetate, 25.4 g (83.6 mmol) tritolylphosphine, and 48 g (584.9 mmol) sodium acetate are heated together in 200 ml DMF at 165° C. (oil bath temperature) under nitrogen for 8 hours. The cooled mixture is evaporated to dryness in vacuo. The residue is then diluted with Et2O:DCM (3:1, 1 L) and washed with sodium carbonate solution (1M, 3×1 L). The aqueous washings are extracted with Et2O:DCM (3:1, 1L) and the combined organic extract dried using MgSO4, filtered through celite, and evaporated to dryness to leave an orange solid. Flash chromatography (SiO2, DCM:pentane 3:1) gave a yellow solid which was triturated with pentane (600 ml) to give the title compound as a pale yellow solid (77.5 g, 58%), m.p. 105.2-105.8° C. 6H (250 MHz, CDCl3) 8.60 (d, J=4.5 Hz, 1H), 7.96 (d, J=16.3 Hz, 1H), 7.64-7.60 (m, 2H), 7.46-7.34 (m, 7H), 7.24 (d, J=16.6 Hz, 1H), 7.18-7.11 (m, 1H), 6.95 (d, J=8.9 Hz, 1H), 5.16 (s, 2H).

reactant | 2-Bromo-4-chlorobenzyloxybenzene | 417.8 mmol, 124.4 g | BrC1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1 | C13H10BrClO
reactant | 2-vinylpyridine | 501.4 mmol, 54.8 ml | C(=C)C1=NC=CC=C1 | C7H7N
reactant | tritolylphosphine | 83.6 mmol, 25.4 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | sodium acetate | 584.9 mmol, 48 g | C(C)(=O)[O-].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 20.9 mmol, 4.69 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DCM pentane | C(Cl)Cl.CCCCC
product | 4-chloro-2-[2-(pyridin-2-yl)vinyl]benzyloxybenzene | 77.5 g, 58% | ClC1=CC(=C(C=C1)OCC1=CC=CC=C1)C=CC1=NC=CC=C1 | C20H16ClNO
